US07727998B2
To a solution of diisopropylamine (0.15 ml) in THF (2 ml), n-butyl lithium (1.5 M hexane solution, 0.6 ml) was added at −78° C., stirred for 10 minutes and another solution of methyl 2-(4-chlorophenyl)-2-cyclopentylacetate (200 mg) in THF (1.5 ml) was added dropwise. After 15 minutes' stirring, the system temperature was raised to −35° C., and methyl iodide (0.15 ml) was added. The reaction liquid temperature was raised to 0° C., and the liquid was stirred for 1.5 hours, diluted with saturated aqueous ammonium chloride solution and extracted with diethyl ether. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and condensed under reduced pressure. The resulting residue was purified on silica gel column chromatography (hexane/ethyl acetate 60/1) to provide methyl 2-(4-chlorophenyl)-2-cyclopentylpropionate (180 mg) as yellow oily substance.

reactant | diisopropylamine | 0.15 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl 2-(4-chlorophenyl)-2-cyclopentylacetate | 200 mg | ClC1=CC=C(C=C1)C(C(=O)OC)C1CCCC1 | C14H17ClO2
reactant | methyl iodide | 0.15 ml | CI | CH3I
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | n-butyl lithium | 1.5 M, 0.6 ml | C(CCC)[Li]
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | methyl 2-(4-chlorophenyl)-2-cyclopentylpropionate | 180 mg | ClC1=CC=C(C=C1)C(C(=O)OC)(C)C1CCCC1 | C15H19ClO2
